US07727985B2
A stirred solution of 3-cyanomethyl-indole-1-carboxylic acid tert-butyl ester (2.15 g, 8.39 mmol) in THF (40 ml) was cooled to −78° C. under an argon atmosphere. Sodium bis(trimethylsilyl)amide (1 M in THF, 10 ml, 10 mmol) was added thereto and the cold solution was stirred for 30 minutes. Iodomethane (627 uL, 10 mmol) was added thereto and the reaction mixture was stirred 1.5 hr while gradually warming to 0° C. H2O (100 ml) was added thereto and the solution was brought to RT and diluted with EtOAc (250 ml). The aqueous layer was removed and extracted with EtOAc (250 ml). The combined organic layers were washed with aqueous HCl (1N, 3×50 ml), followed by brine, then dried over MgSO4, filtered, and concentrated to an orange oil. Purification via column chromatography (hexanes:ethyl acetate) gave 3-(cyano-methyl-methyl)-indole-1-carboxylic acid tert-butyl ester (1.8 g).

reactant | 3-cyanomethyl-indole-1-carboxylic acid tert-butyl ester | 8.39 mmol, 2.15 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)CC#N | C15H16N2O2
reactant | Sodium bis(trimethylsilyl)amide | 10 mmol, 1 M, 10 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | Iodomethane | 10 mmol, 627 uL | IC | CH3I
reactant | H2O | 100 ml | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 250 ml | CCOC(=O)C | C4H8O2
product | 3-(cyano-methyl-methyl)-indole-1-carboxylic acid tert-butyl ester | 1.8 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C(C)C#N | C16H18N2O2
